### PR TITLE
Functor Comprehension

### PR DESCRIPTION
**Pull request by stschaef**
Adding a module called `Comprehension`, and associated dependencies, that provides a method for constructing functors without providing the full functorial structure up front.

That is, say you wish to define a functor `F :  C → D` via some universal property `P`. Instead of manually constructing the action on objects, morphisms, and proving functoriality, one can instead just give an action on objects and prove the functoriality of the property `P`.

This is a pretty big PR. I have tried to integrate most of our changes into the appropriate spots so far, and I'll be marking it as a draft until I address these 

- Continue renaming and integrating our changes. For instance, the modules that currently end in `More` 
- Considering moving `Comprehension.agda` back under the `Profunctor` directory.
- Some dangling TODOs and naming concerns

### CODE REVIEW

**Comment by stschaef** [comment]
Originially we had comprehension under `Profunctor` rather than `Functor`, but after looking at the cubical directory structure, I'm thinking it might make more sense to put comprehension underneath `Functor`. 

I'm torn on this though. After all we are constructing a functor, even if the implementation makes use of profunctors

File: Cubical/Categories/Displayed/Base.agda [hunk 1]
```diff
@@ -88,6 +88,23 @@ module _ {C : Category ℓC ℓC'}
   ∫Cᴰ .⋆Assocᴰ _ _ _ = ΣPathP (_ , Dᴰ.⋆Assocᴰ _ _ _)
   ∫Cᴰ .isSetHomᴰ = isSetΣ Cᴰ.isSetHomᴰ (λ _ → Dᴰ.isSetHomᴰ)
 
+
+-- Display a category D over C
+-- Akin to weakening of a type theory
+module _ (C : Category ℓC ℓC') (D : Category ℓD ℓD') where
+  open Category
+  open Categoryᴰ
+  weaken : Categoryᴰ C ℓD ℓD'
```
Comment (stschaef) [inline Cubical/Categories/Displayed/Base.agda:97]: is this name too similar to `weakenᴰ`?

File: Cubical/Categories/Displayed/DisplayOverProjections.agda [hunk 2]
```diff
@@ -0,0 +1,131 @@
+{-# OPTIONS --safe #-}
+--
+module Cubical.Categories.Displayed.DisplayOverProjections where
```
Comment (stschaef) [inline Cubical/Categories/Displayed/DisplayOverProjections.agda:3]: I don't have any good ideas for naming this module. 

I had this in `Displayed.Base` but it got too bloated. A rough first naming was `DisplayOverProjections` because we turn a display over `C ×C D` into a display over `C` or `D`, but I don't think this is a good module name.

Comment (stschaef) [reply Cubical/Categories/Displayed/DisplayOverProjections.agda:3]: Maybe more principled naming for the terms here, instead of things like `mk∫ᴰsrFunctorᴰ`

File: Cubical/Categories/Displayed/Preorder.agda [hunk 3]
```diff
@@ -0,0 +1,112 @@
...
+    module Qᴰ = Preorderᴰ Qᴰ
+
+  module _
+       (F-obᴰ  : {x : C .ob} → Cᴰ.ob[ x ] → Qᴰ.ob[ F .F-ob x ])
+       (F-homᴰ : {x y : C .ob} {f : C [ x , y ]}
+       {xᴰ : Cᴰ.ob[ x ]} {yᴰ : Cᴰ.ob[ y ]}
+        → Cᴰ.Hom[ f ][ xᴰ , yᴰ ]
+        → Qᴰ.Hom[ F .F-hom f ][ F-obᴰ xᴰ , F-obᴰ yᴰ ]) where
+
+    mkP→CᴰFunctorᴰ : Functorᴰ F Cᴰ (Preorderᴰ→Catᴰ Qᴰ)
```
Comment (stschaef) [inline Cubical/Categories/Displayed/Preorder.agda:111]: naming?

File: Cubical/Categories/Displayed/HLevels.agda [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+       {Cᴰ : Categoryᴰ C ℓCᴰ ℓCᴰ'}
+       {Dᴰ : Categoryᴰ D ℓDᴰ ℓDᴰ'}
+       where
+  open Category
+  open Functor
+  private
+    module Cᴰ = Categoryᴰ Cᴰ
+    module Dᴰ = Categoryᴰ Dᴰ
+
+  mkFunctorᴰPropHoms :
```
Comment (stschaef) [inline Cubical/Categories/Displayed/HLevels.agda:55]: naming?

File: Cubical/Categories/Displayed/HLevels.agda [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+        → Cᴰ [ f ][ xᴰ , yᴰ ] → Dᴰ [ F .F-hom f ][ F-obᴰ xᴰ , F-obᴰ yᴰ ])
+      → Functorᴰ F Cᴰ Dᴰ
+  mkFunctorᴰPropHoms propHoms F-obᴰ F-homᴰ .Functorᴰ.F-obᴰ = F-obᴰ
+  mkFunctorᴰPropHoms propHoms F-obᴰ F-homᴰ .Functorᴰ.F-homᴰ = F-homᴰ
+  mkFunctorᴰPropHoms propHoms F-obᴰ F-homᴰ .Functorᴰ.F-idᴰ =
+    isProp→PathP (λ i → propHoms _ _ _) _ _
+  mkFunctorᴰPropHoms propHoms F-obᴰ F-homᴰ .Functorᴰ.F-seqᴰ _ _ =
+    isProp→PathP (λ i → propHoms _ _ _) _ _
+
+  mkFunctorᴰContrHoms : (contrHoms : hasContrHoms Dᴰ)
```
Comment (stschaef) [inline Cubical/Categories/Displayed/HLevels.agda:69]: naming?

File: Cubical/Categories/Displayed/Functor.agda [hunk 6]
```diff
@@ -157,3 +172,56 @@ module _ {C : Category ℓC ℓC'} {D : Category ℓD ℓD'}
...
+  Fstᴰ .F-seqᴰ _ _ = refl
+
+  -- Functor into the displayed total category
+  module _ {E : Category ℓE ℓE'} (F : Functor E C)
+           {Eᴰ : Categoryᴰ E ℓEᴰ ℓEᴰ'}
+           (Fᴰ : Functorᴰ F Eᴰ Cᴰ)
+           (Gᴰ : Functorᴰ (∫F Fᴰ) (Unitᴰ (∫C Eᴰ)) Dᴰ)
+           where
+
+    mk∫ᴰFunctorᴰ : Functorᴰ F Eᴰ (∫Cᴰ Cᴰ Dᴰ)
```
Comment (stschaef) [inline Cubical/Categories/Displayed/Functor.agda:223]: naming?

File: Cubical/Categories/Displayed/DisplayOverProjections.agda [hunk 7]
```diff
@@ -0,0 +1,131 @@
...
+    -- there is some extra bookkeeping to be had when doing so because
+    -- of having to displayed a functor over a composition involving the
+    -- swap functor C ×C D → D ×C C
+    -- I'd recommend just using the swap functor up front and beginning
+    -- with a category over D ×C C instead of C ×C D and reinstantiating
+    -- this module with that in place of ∫Cᴰ
+
+    open Functorᴰ
+
+    mk∫ᴰsrFunctorᴰ : Functorᴰ F Eᴰ ∫Cᴰsr
```
Comment (stschaef) [inline Cubical/Categories/Displayed/DisplayOverProjections.agda:94]: naming?

File: Cubical/Categories/Displayed/DisplayOverProjections.agda [hunk 8]
```diff
@@ -0,0 +1,131 @@
...
+  (Cᴰ : Categoryᴰ (C ×C D) ℓCᴰ ℓCᴰ')
+  where
+  open Category
+
+  private
+    module Cᴰ = Categoryᴰ Cᴰ
+
+  -- s for "simple" because D is not dependent on C
+  -- r for "right" because D is on the right of the product
+  ∫Cᴰsr : Categoryᴰ C (ℓ-max ℓD ℓCᴰ) (ℓ-max ℓD' ℓCᴰ')
```
Comment (stschaef) [inline Cubical/Categories/Displayed/DisplayOverProjections.agda:39]: naming?

File: Cubical/Categories/Equivalence/Base.agda [hunk 9]
```diff
@@ -24,6 +24,69 @@ record WeakInverse {C : Category ℓC ℓC'} {D : Category ℓD ℓD'}
     η : 𝟙⟨ C ⟩ ≅ᶜ invFunc ∘F func
     ε : func ∘F invFunc ≅ᶜ 𝟙⟨ D ⟩
 
+-- Composition of weak inverses is a weak inverse
```
Comment (stschaef) [inline Cubical/Categories/Equivalence/Base.agda:27]: unsure if here or `Properties` is better

**Comment by felixwellen** [comment]
I have no opinion on the names so far. 
If you can do that git-wise, it would be great if you split the PR up by topics - I think a couple of things are happening at once and that makes it harder to review.

**Comment by stschaef** [comment]
@felixwellen 
Yeah sorry for the spam, that was moreso to not have to comb through them later.

For splitting up the PR, would you prefer something like rebased commits by topics all in a single PR or distinct PRs?

We have written a big web of mess building up to this comprehension construction, but I think these can be decoupled roughly into

- displayed category additions
- bifunctor additions
- profunctor additions
- the comprehension construction itself

File: Cubical/Categories/Equivalence/Base.agda (hunk 9 above)
Comment (felixwellen) [reply Cubical/Categories/Equivalence/Base.agda:27]: Without looking at it: We usually do not split up things enough in the library, so most of the time the good idea is to have more files. So it might also sense to have something on 'composition' or 'weak equivalences'.

**Comment by felixwellen** [comment]
If it is easy for you to split it into multiple PRs by topic, that would be great.

File: Cubical/Categories/Bifunctor/Base.agda [hunk 10]
```diff
@@ -0,0 +1,239 @@
...
+
+private
+  variable
+    ℓc ℓc' ℓd ℓd' ℓe ℓe' : Level
+
+open Category
+open Functor
+open NatTrans
+
+record Bifunctor (C : Category ℓc ℓc')
```
Comment (maxsnew) [inline Cubical/Categories/Bifunctor/Base.agda:33]: This definition is subsumed by `BifunctorSep` in `Bifunctor.Redundant`. I don't think we need *this* file at all, and we should just include `Bifunctor.Redundant` as `Bifunctor.Base`.

File: Cubical/Categories/Instances/Functors/More.agda [hunk 11]
```diff
@@ -0,0 +1,352 @@
...
+    curryF .F-hom η .N-ob γ .N-ob c = η .N-ob (γ , c)
+    curryF .F-hom η .N-ob γ .N-hom ϕ = η .N-hom (Γ .id , ϕ)
+    curryF .F-hom η .N-hom f =
+      makeNatTransPath (funExt (λ (c : C .ob) → η .N-hom (f , C .id)))
+    curryF .F-id = makeNatTransPath (funExt λ (γ : Γ .ob) → refl)
+    curryF .F-seq η η' = makeNatTransPath (funExt λ (γ : Γ .ob) → refl)
+
+    -- Preimage for the ESO proof
+    -- i.e. an object in (FUNCTOR Γ (FUNCTOR C D)) that maps to λF
+    curryF-ESO-object-preimage : (FUNCTOR Γ (FUNCTOR C D)) .ob →
```
Comment (jpoiret) [inline Cubical/Categories/Instances/Functors/More.agda]: Maybe naming it `uncurryF-ob` would be clearer?

File: Cubical/Categories/Instances/Functors/More.agda [hunk 12]
```diff
@@ -0,0 +1,352 @@
...
+      curryF-ESO-object-preimage λF .F-hom (Γ .id , C .id)
+        ≡⟨ ((λ i → (λF .F-id i .N-ob c ⋆⟨ D ⟩ λF .F-ob γ .F-hom (C .id)))) ⟩
+      D .id ⋆⟨ D ⟩ λF .F-ob γ .F-hom (C .id)
+        ≡⟨ ((λ i → (D .id ⋆⟨ D ⟩ (λF .F-ob γ .F-id i)))) ⟩
+      D .id ⋆⟨ D ⟩ D .id
+        ≡⟨ D .⋆IdL (D .id) ⟩
+      D .id
+      ∎ )
+    -- Half of the isomorphism between (curryF-ESO-object-preimage λF) and λF
+    curryF-ESO-morphism-preimage : (λF : (FUNCTOR Γ (FUNCTOR C D)) .ob) →
```
Comment (jpoiret) [inline Cubical/Categories/Instances/Functors/More.agda]: `uncurryF-curryF→id-ob` or something like this?

File: Cubical/Categories/Profunctor/Relator.agda [hunk 13]
```diff
@@ -0,0 +1,125 @@
...
+-- | a bifunctor C ^op x D → Set.
+
+-- | This is equivalent to a functor D → Psh(C), but some concepts are
+-- | more naturally formulated in these terms.
+
+-- | Furthermore, we use the Redundant definition of Bifunctors,
+-- | whereas the category of presheaves as defined currently in the
+-- | library only gives the "separate" functorial action. In practice,
+-- | relators tend to only come with a separate action anyway (e.g.,
+-- | Hom) but in principle
```
Comment (jpoiret) [inline Cubical/Categories/Profunctor/Relator.agda:11]: Commentary is cut short.

**Review by jpoiret — COMMENTED** [review]
Overall seems okay to me, but it's hard to see at what level of generality the new categorical additions should be done. I'm wondering though, isn't the ff.ness of Yoneda enough for all this?

File: Cubical/Categories/Displayed/Preorder.agda [hunk 14]
```diff
@@ -0,0 +1,112 @@
...
+open import Cubical.Categories.Functor
+open import Cubical.Categories.Displayed.Base
+open import Cubical.Categories.Displayed.Functor
+open import Cubical.Categories.Displayed.HLevels
+
+private
+  variable
+    ℓC ℓC' ℓCᴰ ℓCᴰ' ℓD ℓD' ℓDᴰ ℓDᴰ' : Level
+
+record Preorderᴰ (C : Category ℓC ℓC') ℓCᴰ ℓCᴰ' :
```
[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Displayed/Preorder.agda:19]: I agree, sort of. You shouldn't be passing around `Preorderᴰ` structures, you should use `Categoryᴰ` with `hasPropHoms`, but if you want to *define* a `Categoryᴰ` that `hasPropHoms`, you define a `Preorderᴰ` and then use `Preorderᴰ→Catᴰ`. So think of this as analogous to FullSubcategory

File: Cubical/Categories/Displayed/Constructions/FullSubcategory.agda [hunk 15]
```diff
@@ -0,0 +1,68 @@
+-- | Full subcategories (not necessarily prop) viewed as displayed categories.
```
[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Displayed/Constructions/FullSubcategory.agda:1]: This naming is based on https://github.com/agda/cubical/blob/master/Cubical/Categories/Constructions/FullSubcategory.agda

File: Cubical/Categories/Displayed/Constructions/Graph.agda [hunk 16]
```diff
@@ -0,0 +1,75 @@
+{-
+  The graph category of a profunctor viewed as a displayed category
+  over the product.
+-}
```
[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Displayed/Constructions/Graph.agda:4]: As you say, this is different from the ordinary Grothendieck construction, so I'm not sure what you are suggesting. If anything this is the most general form of the Grothendieck construction.

File: Cubical/Categories/Displayed/Functor.agda [hunk 17]
```diff
@@ -157,3 +172,56 @@ module _ {C : Category ℓC ℓC'} {D : Category ℓD ℓD'}
...
+  Fst .F-id = refl
+  Fst .F-seq =
+    λ f g → cong {x = f ⋆⟨ ∫C Cᴰ ⟩ g} fst refl
+
+  -- Functor into the total category
+  module _ {D : Category ℓD ℓD'}
+           (F : Functor D C)
+           (Fᴰ : Functorᴰ F (Unitᴰ D) Cᴰ)
+           where
+    mk∫Functor : Functor D (∫C Cᴰ)
```
[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Displayed/Functor.agda:193]: We were discussing maybe to call all of these principles `intro` as they are the dual of `elim`.

File: Cubical/Categories/Displayed/Constructions/Graph.agda (hunk 16 above)
[the remark this answers is not in the document]
Comment (jpoiret) [reply Cubical/Categories/Displayed/Constructions/Graph.agda:4]: Yeah, this is probably too late, but I think you could have achieved the main result using instead the usual Grothendieck construction to avoid adding new things.

In any case, IMO naming this `Graph` is misleading, maybe 2-Sided-Grothendieck or something similar? The nLab page may also want some changes. (no one would talk about the graph of a relation to mean the subset of `A×B` because that *is* the relation)

[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Displayed/Constructions/Graph.agda:4]: In double category theory, this construction is called the "tabulator" (https://ncatlab.org/nlab/show/tabulator) so maybe that?

[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Displayed/Constructions/Graph.agda:4]: We're willing to change the main result if it's cleaner (we've already changed it several times for that reason)

File: Cubical/Categories/Displayed/DisplayOverProjections.agda (hunk 2 above)
Comment (maxsnew) [reply Cubical/Categories/Displayed/DisplayOverProjections.agda:3]: Good idea! We'll try it out

File: Cubical/Categories/Displayed/Base.agda (hunk 1 above)
Comment (maxsnew) [reply Cubical/Categories/Displayed/Base.agda:97]: If by weaken you mean "reindex" then unfortunately no as that leads to too many transports that don't reduce

File: Cubical/Categories/Bifunctor/Redundant.agda [hunk 18]
```diff
@@ -0,0 +1,560 @@
...
+  Explicit "redundant" definition of a bifunctor F : C , D → E.
+  Includes all 3 of
+  1. A "parallel action" f × g
+  2. Two "separate actions" f × d and c × g
+  Plus axioms that say
+  1. The actions are functorial
+  2. and that they agree
+
+  The full definition includes some redundant *axioms* to make it
+  convenient to use, so we include two alternative formulations to
```
[the remark this answers is not in the document]
Comment (stschaef) [reply Cubical/Categories/Bifunctor/Redundant.agda:12]: The convenience here relates to better definitional equality.

The quick sell is that we would like to act functorially only on one side of `C ×C D` without additional identities tossed in the resulting term. If you had some `F : Functor (C ×C D) E`, in regular math `F` would reduce to a functorial action on `f : C [ c , c' ]` via  `F .F-hom (f , D .id)`, but this introduces a composition with an unnecessary identity. So we build these redundant axioms to give a native action that isn't over some `D .⋆IdR`/`D .⋆IdL` path. 

I'm eliding a fair bit of detail here, but this definitional behavior is crucial for the comprehension construction.

Like we discussed, this PR will be split out into a few separate ones by topic and one of them will just be these bifunctor/binproduct definitions and some motivating examples.

[the remark this answers is not in the document]
Comment (maxsnew) [reply Cubical/Categories/Bifunctor/Redundant.agda:12]: > I'm eliding a fair bit of detail here, but this definitional behavior is crucial for the comprehension construction.

Specifically, it's crucial for making certain compositional constructions spit out the "right" definitions. The main example where it came up for us was when we defined the exponential `a -> -` as a right adjoint to `a x -`, the universal property for exponentials involved an annoying `id` because we were fixing the product functor on one side. We'll be sure to include more info about this in comments when we make the non-draft PR
